US04966901
(1-(2-Acetylaminoethyl)-2,5-dimethyl-3-trifluoroacetylpyrrole
8.1 g (0.045 mol) of 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole in 60 ml of toluene are added dropwise to 7 ml (0.05 mol) of trifluoroacetic anhydride in 10 ml of toluene at -5° C. After 20 hours at room temperature, the mixture is hydrolyzed with sodium bicarbonate solution and the product is filtered off with suction and recrystallized from ligroin.

reactant | 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole | 0.045 mol, 8.1 g | C(C)(=O)NCCN1C(=CC=C1C)C | C10H16N2O
reactant | trifluoroacetic anhydride | 0.05 mol, 7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Acetylaminoethyl)-2,5-dimethyl-3-trifluoroacetylpyrrole | C(C)(=O)NCCN1C(=C(C=C1C)C(C(F)(F)F)=O)C | C12H15F3N2O2
